US05922737
Synthesis of (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzoimidazole-2-yl)(piperidin-4-yl)amine
Combine (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine (1 mmol), potassium hydroxide (1.2 mmcl), and isopropanol (20 mL). Heat to reflux. After 18 hours, evaporate intcacuo to give a residue. Combine the resczue and water. Extract with dichloromethane. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)(1-ethoxycarbonylpiperidin-4-yl)amine | 1 mmol | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C21H26N4O4
reactant | potassium hydroxide | [OH-].[K+]
reactant | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | water | O | H2O
product | (1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzoimidazole-2-yl)(piperidin-4-yl)amine | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C18H22N4O2
